US08110687B2
To a suspension of 3-tert-butyl-5-cyanobenzoic acid (4.5 g, 0.022 mol) in THF (235 mL) at 0° C. was added TEA (11.1 mL, 0.0797 mol) and diphenylphosphonic azide (6.20 mL, 0.0288 mol). The reaction mixture was allowed to stir at 0° C. for 15 min then allowed to warm to rt. After 2 h, the solvents were evaporated and the residue was redissolved in EtOAc. The solution was washed with saturated NaHCO3 solution and brine, dried over Na2SO4, filtered and concentrated. To the residue was added tert-butyl alcohol (108 mL, 1.13 mol). The reaction mixture was allowed to stir at 85° C. under an atmosphere of nitrogen for 3 h and then concentrated. The residue was purified by column chromatography to give tert-butyl (3-tert-butyl-5-cyanophenyl)carbamate (5.21 g, 86%) as a white solid. 1H NMR (400 MHz, d6-DMSO) δ: 9.62(s, 1H), 7.75 (m, 1H), 7.41 (m,1 H), 7.32 (m,1H), 1.46 (s, 9H), and 1.23 (s, 9H). LCMS ES− 273.4

reactant | 3-tert-butyl-5-cyanobenzoic acid | 0.022 mol, 4.5 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C#N | C12H13NO2
reactant | diphenylphosphonic azide | 0.0288 mol, 6.20 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | tert-butyl alcohol | 1.13 mol, 108 mL | C(C)(C)(C)O | C4H10O
reactant | THF | 235 mL | C1CCOC1 | C4H8O
product | tert-butyl (3-tert-butyl-5-cyanophenyl)carbamate | 5.21 g, 86% | C(C)(C)(C)C=1C=C(C=C(C1)C#N)NC(OC(C)(C)C)=O | C16H22N2O2
